US05126367
((-)-N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]-7,7-dimethyl-2-oxobicyclo[2,2,1]heptane-1-carboxamide
To 2.0 g (10 mmole) (-)-ketopinic acid in 100 ml of dichloromethane was added 2.0 ml (23 mmole) oxalyl choride and 2 drops of DMF. The mixture was stirred for two hours at room temperature and then concentrated to dryness in vacuum. It was redissolved in 50 ml of methylenechloride and added to a cold solution of 2.1 g (10 mmole) 2-[N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin and 1.3 g (10 mmole) diisopropylethylamine in 100 ml of dichloromethane. The mixture was stirred at room temperature overnight. It was then washed with saturated aqueous sodium bicarbonate, with saturated sodium chloride, dried over sodium sulfate, filtered and evaporated in vacuum. The residue was column chromatographed on 100 g of silica gel with chloroform as eluant, and the product crystallized from 75 ml of isopropanol with the addition of 4 ml 4 N HCl/isopropyl alcohol and 225 ml of diethyl ether to produce 1.25 g of the title compound as the hydrochloride, quarter hydrate, m.p. 164°-166° C., [α]D25 =-31.3 (MeOH).

reactant | oxalyl choride | 23 mmole, 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin | 10 mmole, 2.1 g | NCCNCC1COC2=C(O1)C=CC=C2 | C11H16N2O2
reactant | diisopropylethylamine | 10 mmole, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (-)-N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]-7,7-dimethyl-2-oxobicyclo[2,2,1]heptane-1-carboxamide | 1.25 g | O1C(COC2=C1C=CC=C2)CNCCNC(=O)C21C(CC(CC2)C1(C)C)=O | C21H28N2O4
